US09079919B2
A solution of (R)—N2-(bis(4-methoxyphenyl)(phenyl)methyl)-N6′-(diphenylmethylene)-5,5-difluoro-5,6-dihydrospiro[[1,3]oxazine-4,4′-thiochroman]-2,6′-diamine (613 mg, 815 μmol) in dichloromethane (10 ml) was treated with trifluoroacetic acid (930 mg, 8.15 mmol). The orange colored solution was stirred at room temperature for 15 hours. Thereafter, the reaction mixture was diluted with dichloromethane (10 ml) and washed with a 1M-solution of sodium carbonate (5 ml). The organic layer was separated, dried over sodium sulphate and evaporated. The resulting yellow oil was dissolved in dioxane (8 ml), then hydrochloric acid (4N in dioxane, 2.04 ml) was added dropwise. A precipitate was formed, which dissolved after addition of hydrochloric acid (4N in dioxane, 2.0 ml). The orange colored solution was stirred at room temperature for 15 hours. For the workup, the solution was evaporated at reduced pressure and the residue dissolved in ethyl acetate (30 ml). The organic layer was washed with hydrochloric acid (1N, 8 ml), the aqueous layer was separated and adjusted to pH 9 by addition of sodium hydroxide (2N). Thereafter, the aqueous layer was extracted with ethyl acetate (3×30 ml), the organic layers combined and dried over sodium sulphate. After evaporation at reduced pressure, the (R)-5,5-difluoro-5,6-dihydro spiro[[1,3]oxazine-4,4′-thiochroman]-2,6′-diamine (230 mg, 89% yield) was obtained as a yellow solid pure enough to be used in the next step without further purification. MS (ISP): m/z=286.1 [M+H]+.

reactant | (R)—N2-(bis(4-methoxyphenyl)(phenyl)methyl)-N6′-(diphenylmethylene)-5,5-difluoro-5,6-dihydrospiro[[1,3]oxazine-4,4′-thiochroman]-2,6′-diamine | 815 μmol, 613 mg | COC1=CC=C(C=C1)C(NC=1OCC([C@]2(CCSC3=CC=C(C=C23)N=C(C2=CC=CC=C2)C2=CC=CC=C2)N1)(F)F)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C46H39F2N3O3S
reactant | trifluoroacetic acid | 8.15 mmol, 930 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | 4N, 2.0 ml | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-5,5-difluoro-5,6-dihydro spiro[[1,3]oxazine-4,4′-thiochroman]-2,6′-diamine | 230 mg, 89% yield | FC1(COC(=N[C@@]12CCSC1=CC=C(C=C21)N)N)F | C12H13F2N3OS
